US07709479B1
A mixture of N-benzoyl 2-chloro-4-nitroaniline (5.77 g, 20.8 mmol) and tin (II) chloride (23.5 g, 104 .mmol) were heated in ethyl acetate (250 ml) at reflux for 2 hours under an inert atmosphere. The reaction was allowed to cool to ambient temperature and concentrated aqueous ammonia (40 ml) was added. The reaction was filtered, the solid material was washed with ethyl acetate (3×30 ml) and the combined organic layers were evaporated in vacuo. Drying of the resultant solid in vacuo, yielded N-benzoyl 2-chloro-4-aminoaniline (4.63 g, 90% yield) as a cream-coloured crystalline solid:

reactant | N-benzoyl 2-chloro-4-nitroaniline | 20.8 mmol, 5.77 g | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C13H9ClN2O3
reactant | tin (II) chloride | 23.5 g | [Sn](Cl)Cl
reactant | ammonia | 40 ml | N | H3N
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | N-benzoyl 2-chloro-4-aminoaniline | 4.63 g, 90% yield | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)N)Cl | C13H11ClN2O
